US04495361
To a reaction vessel is charged 15 g of N-methacryloyl-6-aminohexanoate and 50 g of hexamethyldisilazane. The mixture is heated at 90° C. for one hour while stirring and the volatile materials are removed in vacuo. The residue is distilled under high vacuum to yield trimethylsilyl N-methacryloyl-6-aminohexanoate having a boiling point of 118° C./0.05 mmHg. NMR and infrared spectra confirm the structure.

reactant | N-methacryloyl-6-aminohexanoate | 15 g | C(C(=C)C)(=O)NCCCCCC(=O)[O-]
reactant | hexamethyldisilazane | 50 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | trimethylsilyl N-methacryloyl-6-aminohexanoate | C(C(=C)C)(=O)NCCCCCC(=O)O[Si](C)(C)C | C13H25NO3Si
